US04503050
A mixture of 5 g (32 mmole) of 4-amino-6-methyl-2-methylthiopyrimidine and 10 g (64 mmole) of a 50% aqueous solution of chloroacetaldehyde was heated at 80° C. for one hour. The mixture was cooled with an ice bath and immediately neutralized with sodium bicarbonate. The mixture was extracted with chloroform and the extracts were dried over magnesium sulfate and evaporated to provide an oil. The oil was extracted with hot ethyl acetate, and the extrats were filtered and then evaporated. The residue was dissolved in hot benzene, treated with decolorizing charcoal, and filtered, and the filtrate was evaporated. The residue thereby obtained was dissolved in hot diethyl ether, treated with decolorizing charcoal, and filtered, the filtrate then being evaporated. The residue obtained was recrystallized first from a benzene/hexane mixture and then from cyclohexane, each time accompanied by treatment with decolorizing charcoal. The solid was purified on a preparative scale high pressure liquid chromatograph using ethyl acetate as the eluent. The solid obtained was recrystallized from hexanes to give white crystals of 7-methyl-5-methylthioimidazo[1,2-c]pyrimidine, m.p. 67°-69° C. Analysis: Calculated for C8H9N3S: %C,53.6; %H,5.1; %N,23.4; Found: %C,53.2; %H,5.0; %N,23.8.

reactant | 4-amino-6-methyl-2-methylthiopyrimidine | 32 mmole, 5 g | NC1=NC(=NC(=C1)C)SC | C6H9N3S
reactant | chloroacetaldehyde | ClCC=O | C2H3ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | charcoal | C | CH4
solvent | diethyl ether | C(C)OCC | C4H10O
product | 7-methyl-5-methylthioimidazo[1,2-c]pyrimidine | CC1=CC=2N(C(=N1)SC)C=CN2 | C8H9N3S
